US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[(1R,2S)-2-hydroxy-indan-1-yl]-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-6,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with (1R,2S)-1-amino-2-indanol

reactant | 1-(3,4-Dimethoxy-benzyl)-6,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=CC(=CC(=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | (1R,2S)-1-amino-2-indanol | N[C@H]1[C@H](CC2=CC=CC=C12)O | C9H11NO
product | 2-[1-(3,4-Dimethoxy-benzyl)-6,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[(1R,2S)-2-hydroxy-indan-1-yl]-acetamide | COC=1C=C(CC2N(CCC3=CC(=CC(=C23)OC)OC)CC(=O)N[C@H]2[C@H](CC3=CC=CC=C23)O)C=CC1OC | C31H36N2O6
